US07179812B2
2-Bromo-5-iodo-pyrazine (13.69 g, 48.0 mmol), 1-but-3-ynyl-1H-[1,2,3]triazole (7.01 g, 57.9 mmol) and triethyl amine (NEt3) (94 ml) are dissolved in DMF (188 ml) and copper iodide (CuI) (0.984 g, 5.17 mmol) is added under stirring. After passing a stream of argon through the mixture for 10 min tetrakis(triphenylphosphine)palladium(0) (2.844 g, 2.46 mmol) is added and stirring is continued for 5 h at r.t. Dichloromethane (300 ml) is added; the mixture is washed with 0.5N hydrochloric acid (HCl) and brine, dried over Na2SO4 and concentrated in vacuo. The crude product is purified by flash column chromatography (ethyl acetate/hexanes 7:3) yielding 2-bromo-5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrazine as a colorless solid. Yield 9.99 g (75%).

reactant | 2-Bromo-5-iodo-pyrazine | 48.0 mmol, 13.69 g | BrC1=NC=C(N=C1)I | C4H2BrIN2
reactant | 1-but-3-ynyl-1H-[1,2,3]triazole | 57.9 mmol, 7.01 g | C(CC#C)N1N=NC=C1 | C6H7N3
reactant | triethyl amine | 94 ml | C(C)N(CC)CC | C6H15N
reactant | Dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | DMF | 188 ml | CN(C)C=O | C3H7NO
catalyst | copper iodide | 5.17 mmol, 0.984 g | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.46 mmol, 2.844 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-bromo-5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyrazine | BrC1=NC=C(N=C1)C#CCCN1N=NC=C1 | C10H8BrN5
